US06288120B1
4-(2-Methanesulfonylamino-ethoxy)-benzoic acid methyl ester
Methanesulfonyl chloride (144 mg, 1.27 mmol) was added to a solution of 4-(2-amino-ethoxy)-benzoic acid methyl ester (266 mg, 1.15 mmol) and pyridine (255 mg, 2.52 mmol) in CH2Cl2 (10 mL) at 0° C. The solution was warmed to room temperature and was stirred for 24 h. EtOAc was added and the organic solution was washed with HCl (1N, 2×) followed by brine. The organic solution was dried (Na2SO4), filtered, and concentrated to yield the title compound as a white solid (240 mg). 1H NMR (400 MHz, CDCl3) δ 7.99 (dd, 2H), 6.90 (dd, 2H), 4.77 (m, 1H), 4.15 (t, 2H), 3.88 (s, 3H), 3.58 (m, 2H), 3.02 (s, 3H); MS 274 (M+1).

reactant | Methanesulfonyl chloride | 1.27 mmol, 144 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(2-amino-ethoxy)-benzoic acid methyl ester | 1.15 mmol, 266 mg | COC(C1=CC=C(C=C1)OCCN)=O | C10H13NO3
reactant | pyridine | 2.52 mmol, 255 mg | N1=CC=CC=C1 | C5H5N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-Methanesulfonylamino-ethoxy)-benzoic acid methyl ester | 240 mg | COC(C1=CC=C(C=C1)OCCNS(=O)(=O)C)=O | C11H15NO5S
